### PR TITLE
feat: more lemmas about equality

### PR DESCRIPTION
**Pull request by negiizhao**

### CODE REVIEW

**Comment by negiizhao** [comment]
awaiting-review

File: Std/Logic.lean [hunk 1]
```diff
@@ -729,9 +731,76 @@ theorem proof_irrel_heq {p q : Prop} (hp : p) (hq : q) : HEq hp hq := by
...
+
+@[simp] theorem eq_mpr_eq_cast (h : α = β) : Eq.mpr h = cast h.symm :=
+  rfl
+
+@[simp] theorem cast_cast : ∀ (ha : α = β) (hb : β = γ) (a : α),
+    cast hb (cast ha a) = cast (ha.trans hb) a
+  | rfl, rfl, _ => rfl
+
+theorem heq_of_cast_eq : ∀ (e : α = β) (_ : cast e a = a'), HEq a a'
+  | rfl, h => Eq.recOn h (HEq.refl _)
```
Comment (fgdorais) [inline Std/Logic.lean:754]:
```suggestion
  | rfl, rfl => .rfl
```

File: Std/Logic.lean [hunk 2]
```diff
@@ -729,9 +731,76 @@ theorem proof_irrel_heq {p q : Prop} (hp : p) (hq : q) : HEq hp hq := by
 @[simp] theorem eq_rec_constant {α : Sort _} {a a' : α} {β : Sort _} (y : β) (h : a = a') :
     (@Eq.rec α a (fun α _ => β) y a' h) = y := by cases h; rfl
 
-theorem congrArg₂ (f : α → β → γ) {x x' : α} {y y' : β}
+alias congr_fun := congrFun
+alias congr_arg := congrArg
+
+theorem ne_of_apply_ne {α β : Sort _} (f : α → β) {x y : α} (h : f x ≠ f y) : x ≠ y :=
+  fun w : x = y => h (congr_arg f w)
```
Comment (fgdorais) [inline Std/Logic.lean:738]:
```suggestion
theorem ne_of_apply_ne {α β : Sort _} (f : α → β) {x y : α} : f x ≠ f y → x ≠ y :=
  mt <| congr_arg _
```

File: Std/Logic.lean [hunk 3]
```diff
@@ -729,9 +731,76 @@ theorem proof_irrel_heq {p q : Prop} (hp : p) (hq : q) : HEq hp hq := by
...
+
+section EqRec
+variable {α : Sort _} {a : α} {motive : (a' : α) → a = a' → Sort _}
+  (x : motive a (rfl : a = a)) {a' : α} (e : a = a')
+
+theorem Eq.rec_eq_cast : @Eq.rec α a motive x a' e = cast (e ▸ rfl) x := by
+  subst e; rfl
+
+--Porting note: new theorem. More general version of `eqRec_heq`
+theorem eqRec_heq' : HEq (@Eq.rec α a motive x a' e) x := by
```
Comment (fgdorais) [inline Std/Logic.lean:767]: I would call this `Eq.rec_heq_self`?

**Review by fgdorais — CHANGES_REQUESTED** [review]

**Comment by negiizhao** [comment]
awaiting-review

**Review by fgdorais — APPROVED** [review]

File: Std/Logic.lean [hunk 4]
```diff
@@ -732,6 +732,79 @@ theorem proof_irrel_heq {p q : Prop} (hp : p) (hq : q) : HEq hp hq := by
...
+theorem rec_heq_iff_heq {α : Sort _} {a : α} {motive : (a' : α) → a = a' → Sort _}
+    (x : motive a (rfl : a = a)) {a' : α} (e : a = a') {β : Sort _} (y : β) :
+    HEq (@Eq.rec α a motive x a' e) y ↔ HEq x y := by
+  subst e; rfl
+
+@[simp]
+theorem heq_rec_iff_heq {α : Sort _} {a : α} {motive : (a' : α) → a = a' → Sort _}
+    (x : motive a (rfl : a = a)) {a' : α} (e : a = a') {β : Sort _} (y : β) :
+    HEq y (@Eq.rec α a motive x a' e) ↔ HEq y x := by
+  subst e; rfl
```
Comment (fgdorais) [inline Std/Logic.lean:806]: I know I suggested a name change here before, sorry for changing my mind! I think `rec` is too ambiguous in these theorems since `rec` could refer to any inductive type. I think `eqRec` is better. 

```suggestion
theorem eqRec_eq_cast {α : Sort _} {a : α} {motive : (a' : α) → a = a' → Sort _}
    (x : motive a (rfl : a = a)) {a' : α} (e : a = a') :
    @Eq.rec α a motive x a' e = cast (e ▸ rfl) x := by
  subst e; rfl

--Porting note: new theorem. More general version of `eqRec_heq`
theorem eqRec_heq_self {α : Sort _} {a : α} {motive : (a' : α) → a = a' → Sort _}
    (x : motive a (rfl : a = a)) {a' : α} (e : a = a') :
    HEq (@Eq.rec α a motive x a' e) x := by
  subst e; rfl

@[simp]
theorem eqRec_heq_iff_heq {α : Sort _} {a : α} {motive : (a' : α) → a = a' → Sort _}
    (x : motive a (rfl : a = a)) {a' : α} (e : a = a') {β : Sort _} (y : β) :
    HEq (@Eq.rec α a motive x a' e) y ↔ HEq x y := by
  subst e; rfl

@[simp]
theorem heq_eqRec_iff_heq {α : Sort _} {a : α} {motive : (a' : α) → a = a' → Sort _}
    (x : motive a (rfl : a = a)) {a' : α} (e : a = a') {β : Sort _} (y : β) :
    HEq y (@Eq.rec α a motive x a' e) ↔ HEq y x := by
  subst e; rfl
```

**Comment by negiizhao** [comment]
awaiting-review

**Review by semorrison — APPROVED** [review]

**Review by joehendrix — APPROVED** [review]

File: Std/Logic.lean [hunk 5]
```diff
@@ -729,9 +731,76 @@ theorem proof_irrel_heq {p q : Prop} (hp : p) (hq : q) : HEq hp hq := by
...
+  fun w : x = y => h (congr_arg f w)
+
+theorem congr_arg₂ (f : α → β → γ) {x x' : α} {y y' : β}
     (hx : x = x') (hy : y = y') : f x y = f x' y' := by subst hx hy; rfl
 
+@[simp] theorem eq_mp_eq_cast (h : α = β) : Eq.mp h = cast h :=
+  rfl
+
+@[simp] theorem eq_mpr_eq_cast (h : α = β) : Eq.mpr h = cast h.symm :=
+  rfl
```
[the remark this answers is not in the document]
Comment (nomeata) [reply Std/Logic.lean]: This broke mathlib in a few case. Was that breakage expected?

File: Std/Logic.lean [hunk 6]
```diff
@@ -732,6 +732,79 @@ theorem proof_irrel_heq {p q : Prop} (hp : p) (hq : q) : HEq hp hq := by
...
+alias congr_arg₂ := congrArg₂
+alias congr_fun := congrFun
+alias congr_fun₂ := congrFun₂
+alias congr_fun₃ := congrFun₃
+
+theorem eq_mp_eq_cast (h : α = β) : Eq.mp h = cast h :=
+  rfl
+
+theorem eq_mpr_eq_cast (h : α = β) : Eq.mpr h = cast h.symm :=
+  rfl
```
Comment (semorrison) [inline Std/Logic.lean:773]: I'm not thilled about PRs that upstream lemmas but drop `@[simp]` attributes.

Comment (joehendrix) [reply Std/Logic.lean:773]: I think that was an oversight.  We could add them in a separate PR.

Comment (fgdorais) [reply Std/Logic.lean:773]: This was my bad! The issue is that Std doesn't know much what to do with `cast`, so these simps led "nowhere" in a sense.
